Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dizziness, general malaise
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient initially presented to ___ 
(___) on ___ after she had been feeling dizzy and "off." 
She presented to the hospital and was found to have new onset 
atrial fibrillation with RVR, with rates up to 180s per the 
patient. Rate control was achieved with IV diltiazem, and she 
was transitioned to oral metoprolol. She was not started on 
anticoagulation, but was given a full dose aspirin. During that 
admission, troponin was negative and CXR was negative for 
cardiopulmonary process. She was discharged ___ on PO metoprolol 
50 mg and said she was feeling well at this time. On the morning 
of presentation, she returned to ___ because she was again 
feeling dizzy. She was found to be in recurrent afib with RVR, 
was started on IV ditiazem gtt, and achieved rate control with 
HRs in the ___. She was transferred to ___ for 
consideration of cardioversion.  

 
Past Medical History:
HTN
Aortic Regurgitation
 
Social History:
___
Family History:
Father and paternal grandmother died of heart failure in late 
___.  
 Mother died at ___ of ?pneumonia.  
 
 
Physical Exam:
Admission Physical Exam:
========================
VS: T98 BP126/91 HR86 O293RA  
Weight 63.8  
 
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.  
NECK: No JVD.  
CARDIAC: irregularly irregular, unable to appreciate murmurs.  
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses 2+ and symmetric.  
 
Discharge Physical Exam:
=========================
VS: T=97.8 BP= 136/89 (98/59-136/89) HR= 78 (70-97)RR=18 O2 
sat=98 (97-98) on RA
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
NECK: No JVD.  
CARDIAC: irregularly irregular, No M/R/G  
LUNGS: CTAB. No crackles, wheezes or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, trace 
peripheral edema  in lower extremities bilaterally  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses 2+ and symmetric

 
Pertinent Results:
Admission Labs
==============
___ 05:15PM BLOOD WBC-7.3 RBC-3.95 Hgb-12.6 Hct-38.4 MCV-97 
MCH-31.9 MCHC-32.8 RDW-12.8 RDWSD-45.4 Plt ___
___ 05:15PM BLOOD Neuts-71.5* ___ Monos-4.8* 
Eos-0.4* Baso-0.8 Im ___ AbsNeut-5.21 AbsLymp-1.62 
AbsMono-0.35 AbsEos-0.03* AbsBaso-0.06
___ 05:15PM BLOOD Plt ___
___ 06:55PM BLOOD ___ PTT-25.5 ___
___ 05:15PM BLOOD Glucose-89 UreaN-13 Creat-0.6 Na-139 
K-4.3 Cl-106 HCO3-23 AnGap-14

Discharge Labs:
==================
___ 07:00AM BLOOD WBC-6.1 RBC-3.94 Hgb-12.5 Hct-39.4 
MCV-100* MCH-31.7 MCHC-31.7* RDW-12.6 RDWSD-46.3 Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-91 UreaN-14 Creat-0.6 Na-140 
K-4.1 Cl-107 HCO3-26 AnGap-11
___ 07:00AM BLOOD Calcium-9.1 Phos-3.8 Mg-2.___RIEF SUMMARY
==============
___ female with a PMH of aortic regurg, HLD who presented to 
outside hospital with dizziness and malaise, found to be in afib 
with RVR and was subsequently transferred to ___ for further 
management. 

ACTIVE ISSUES
==============
# Atrial fibrillation with RVR: Patient presented to 
___ on ___ and found to have atrial 
fibrillation with RVR. She was discharged from there on 
metoprolol succinate 50 mg XL and 325 mg ASA for stroke 
prophylaxis. However, she re-presented again to ___ ___ with 
recurrent afib with RVR, was started on diltiazem gtt and was 
transferred to ___ for further evaluation. Etiology of this 
afib is unclear, possibly due to structural disease given her 
valvular dysfunction and atrial enlargement. Her infectious 
work-up was negative and she had no localizing signs or 
symptoms. Her TSH was normal. Given the patient's CHADSVASC 
score of 3, anticoagulation was indicated. Here, she was 
initially placed on heparin gtt for anticoagulation but then 
transitioned to apixaban 2.5 mg BID. For rate control, she was 
restarted on metoprolol, which was uptitrated. Her symptoms were 
improved with activity and she was discharged home on Toprol XL 
75 mg BID. Plan to consider cardioversion as an outpatient after 
1 month of anticoagulation. 

CHRONIC ISSUES
===============
# Vitamin D deficiency: Ms. ___ was continued on her home 
vitamin D during this admission.

TRANSITIONAL ISSUES
===================
# Discharged on metoprolol 75 mg BID for rate control and 
apixaban 2.5 mg BID (decreased dose given borderline low weight, 
age>___) for anticoagulation.
# Will discuss with Dr. ___. outpatient cardioversion after 
1 month of apixaban. 

# CODE: Full (presumed) 
# CONTACT: ___, HCP, ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D 1000 UNIT PO DAILY 
2. Metoprolol Succinate XL 50 mg PO DAILY 
3. estradiol 0.01 % (0.1 mg/gram) vaginal DAILY 

 
Discharge Medications:
1.  Apixaban 2.5 mg PO BID afib 
RX *apixaban [Eliquis] 2.5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  Metoprolol Succinate XL 75 mg PO BID 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  estradiol 0.01 % (0.1 mg/gram) vaginal DAILY  
4.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
# Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your hospitalization 
at ___. You presented with dizziness and were found to be in a 
heart rhythm called atrial fibrillation. You received 
medications to control your heart rate and you will need to 
continue taking this when you return home. This new medication 
is metoprolol and your dose is 75 mg twice a day (you will need 
to take a 50 mg and a 25 mg pill to achieve this dose). 

Additionally, this abnormal heart rhythm can make you at risk 
for developing clots in the heart. To prevent stroke, we have 
started you on a blood thinner called apixaban. You should take 
this twice a day. Do not stop this medication unless instructed 
by your doctor. 

You will have a follow-up appointment with Dr. ___. He will 
discuss performing a procedure called a cardioversion to return 
your heart to a normal rhythm but this should be only done after 
you have been on the blood thinner for at least a month.   

We wish you the best,
Your ___ Care Team 
 
Followup Instructions:
___